US05420126
In 10 ml of N,N-dimethylformamide was dissolved 2.66 g of 3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazine followed by addition of 1.02 g of sodium hydride (60% in oil) and the mixture was stirred at room temperature for 30 minutes. Then, 2.77 g of 2-bromopyridine N-oxide hydrochloride was added with ice-cooling and, after the evolution of heat had subsided, the mixture was stirred at room temperature for 2 hours. The reaction mixture was then poured in water and extracted with ethyl acetate. The organic layer was separated and dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was chromatographed on a silica gel column using chloroform as the eluent to give crude 2-(3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazin-4-yl)pyridine N-oxide.

reactant | 3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazine | 2.66 g | CC1(OC2=C(NC1)C=C(C=C2)[N+](=O)[O-])C | C10H12N2O3
reactant | sodium hydride | 1.02 g | [H-].[Na+]
reactant | 2-bromopyridine N-oxide hydrochloride | 2.77 g | Cl.BrC1=[N+](C=CC=C1)[O-]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(3,4-dihydro-2,2-dimethyl-6-nitro-2H-1,4-benzoxazin-4-yl)pyridine N-oxide | CC1(OC2=C(N(C1)C1=[N+](C=CC=C1)[O-])C=C(C=C2)[N+](=O)[O-])C | C15H15N3O4
